US06008243
According to the procedure described in Example 13 for the preparation of 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)ethane-1,2-dione, 2-biphenyl-4-yl-furan was deprotonated and alkylated with N-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-oxamic acid ethyl ester to give in 57% yield 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)ethane-1,2-dione as a pale yellow amorphous solid. 1H NMR: δ 7.91 (d, 2H, J=8.1 Hz), 7.69 (d, 2H, J=8.1 Hz), 7.64 (d, 2H, J=8.1 Hz), 7.49-7.36 (m, 4H), 7.25-7.10 (m, 5H), 6.85 (d, 1H, J=4.0 Hz), 4.62-4.57 (m, 1H), 3.91 (m, 2H), 3.00 (dd, 1H, J=5.0, 13.0 Hz), 3.82 (dd, 1H, J=10.1, 13.2 Hz), 1.86 (s, 3H), 1.68 (s, 3H). Anal. Calculated for C30H27NO4 : C, 77.40; H, 5.85; N, 3.01. Found: C, 77.43; H, 5.88; N, 3.06.

reactant | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)ethane-1,2-dione | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(=O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H28N2O3
reactant | 2-biphenyl-4-yl-furan | C1(=CC=C(C=C1)C=1OC=CC1)C1=CC=CC=C1 | C16H12O
reactant | N-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-oxamic acid ethyl ester | C(C)OC(C(=O)NN1C(OC[C@@H]1CC1=CC=CC=C1)(C)C)=O | C16H22N2O4
product | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)ethane-1,2-dione | 57% yield | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(=O)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H27NO4
